US07473699B2
Intermediate 54: (5S)-5-(Aminomethyl)-3-[4-(1-benzyl-1,2,3,6-tetrahydropyridin-4-yl)-3,5-difluorophenyl]oxazolidin-2-one
(5R)-5-(Azidomethyl)-3-[4-(1-benzyl-1,2,3,6-tetrahydropyridin-4-yl)-3,5-difluorophenyl]-1,3-oxazolidin-2-one (WO 0181350) (10.60 g, 24.97 mmol) was dissolved in acetonitrile (250 ml) and water (25 ml). Triphenylphosphine (7.86 g, 29.96 mmol) was added and the suspension was stirred at room temperature for approximately 16 h. The reaction mixture was concentrated under vacuum. The crude material was purified by chromatography on silica gel using 2.5-5% methanol in dichloromethane to give 7.03 g of the title product.

reactant | (5R)-5-(Azidomethyl)-3-[4-(1-benzyl-1,2,3,6-tetrahydropyridin-4-yl)-3,5-difluorophenyl]-1,3-oxazolidin-2-one | 24.97 mmol, 10.60 g | N(=[N+]=[N-])C[C@H]1CN(C(O1)=O)C1=CC(=C(C(=C1)F)C=1CCN(CC1)CC1=CC=CC=C1)F | C22H21F2N5O2
reactant | Triphenylphosphine | 29.96 mmol, 7.86 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
solvent | water | 25 ml | O | H2O
product | (5S)-5-(Aminomethyl)-3-[4-(1-benzyl-1,2,3,6-tetrahydropyridin-4-yl)-3,5-difluorophenyl]oxazolidin-2-one | 7.03 g | NC[C@H]1CN(C(O1)=O)C1=CC(=C(C(=C1)F)C=1CCN(CC1)CC1=CC=CC=C1)F | C22H23F2N3O2
